US07435823B2
Step (a) Prepration of 4-(5-aminonaphthalen-2-yloxy)-N-methylpicolinamide
To a solution of 5-amino-2-napthol (2.8 g, 17.6 mmol) in DMF (20 mL), NaH (60% in oil, 843 mg, 21.1 mmol) was added and stirred until the bubbling stopped. To the mixture 4-chloro-N-methylpicolinamide (Org. Proc. Res. & Dev., 2002, 6, 777-781)(1 g, 5.86 mmol) was added and the reaction heated to 90° C. for 22 h. The mixture was cooled to RT and diluted with CHCl3 and washed with water. The emulsion was filtered thru a pad of Celite and the layers separated. The water was washed with CHCl3 and the organic portions combined and washed with 1N NaOH and brine, dried with Na2SO4, filtered and evaporated. The residue was purified by column chromatography using hexanes and EtOAc as the eluent to give the title compound as a rose-colored solid.

reactant | 5-amino-2-napthol | 17.6 mmol, 2.8 g | NC1=C2C=CC(=CC2=CC=C1)O | C10H9NO
reactant | NaH | 21.1 mmol, 843 mg | [H-].[Na+]
reactant | 4-chloro-N-methylpicolinamide | 5.86 mmol, 1 g | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-(5-aminonaphthalen-2-yloxy)-N-methylpicolinamide | NC1=C2C=CC(=CC2=CC=C1)OC1=CC(=NC=C1)C(=O)NC | C17H15N3O2
